US06544985B2
[2′-Fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester
The title compound was prepared from [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester (Example J5) (200 mg, 0.5 mmol) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example K1) (150 mg, 0.57 mmol) according to the general procedure M. Obtained as a light yellow solid (110 mg).

reactant | [5-amino-2′-fluoro-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | 0.5 mmol, 200 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C19H20F4N2O3
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | 0.57 mmol, 150 mg | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | [2′-Fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)C1=C(C=CC=C1)F)OCC(F)(F)F)=O | C30H27F4N5O5
